*-----------------------------------------------------------------------------
*
*** Voltage comparators
*
* The parameters in this comparator library were derived from data sheets for
* each parts.  The macromodel used was developed by MicroSim Corporation, and
* is produced by the "Parts" option to PSpice.
*
* Although we do not use it, another comparator macro model is described in:
*
*       An Integrated-Circuit Comparator Macromodel
*         by Ian Getreu, Andreas Hadiwidjaja, and Johan Brinch
*       IEEE Journal of Solid-State Circuits, Vol. SC-11, no. 6, Dec. 1976
*
* This reference covers the considerations that go into duplicating the
* behavior of voltage comparators.
*
* The comparators are modelled at room temperature.  The macro model does not
* track changes with temperature.  This library file contains models for
* nominal, not worst case, devices.
*$
*
*-----------------------------------------------------------------------------
* connections:   non-inverting input
*                | inverting input
*                | | positive power supply
*                | | | negative power supply
*                | | | | open collector output
*                | | | | | output ground
*                | | | | | |
.subckt LM111    1 2 3 4 5 6
*
  f1    9  3 v1 1
  iee   3  7 dc 100.0E-6
  vi1  21  1 dc .45
  vi2  22  2 dc .45
  q1    9 21  7 qin
  q2    8 22  7 qin
  q3    9  8  4 qmo
  q4    8  8  4 qmi
.model qin PNP(Is=800.0E-18 Bf=833.3)
.model qmi NPN(Is=800.0E-18 Bf=1002)
.model qmo NPN(Is=800.0E-18 Bf=1000 Cjc=1E-15 Tr=118.8E-9)
  e1   10  6  9  4  1
  v1   10 11 dc 0
  q5    5 11  6 qoc
.model qoc NPN(Is=800.0E-18 Bf=34.49E3 Cjc=1E-15 Tf=364.6E-12 Tr=79.34E-9)
  dp    4  3 dx
  rp    3  4 6.122E3
.model dx  D(Is=800.0E-18 Rs=1)
*
.ends
*$
*-----------------------------------------------------------------------------
* connections:   non-inverting input
*                | inverting input
*                | | positive power supply
*                | | | negative power supply
*                | | | | open collector output
*                | | | | | output ground
*                | | | | | |
.subckt LM119    1 2 3 4 5 6
*
  f1    3  9 v1 1
  iee   7  4 dc 100.0E-6
  q1    9  2  7 qin
  q2    8  1  7 qin
  q3    9  8  3 qmo
  q4    8  8  3 qmi
.model qin NPN(Is=800.0E-18 Bf=333.3)
.model qmi PNP(Is=800.0E-18 Bf=1002)
.model qmo PNP(Is=800.0E-18 Bf=1000 Cjc=1E-15 Tr=59.42E-9)
  e1   10  6  3  9  1
  v1   10 11 dc 0
  q5    5 11  6 qoc
.model qoc NPN(Is=800.0E-18 Bf=41.38E3 Cjc=1E-15 Tf=23.91E-12 Tr=24.01E-9)
  dp    4  3 dx
  rp    3  4 5.556E3
.model dx  D(Is=800.0E-18 Rs=1)
*
.ends
*$
*-----------------------------------------------------------------------------
* connections:   non-inverting input
*                | inverting input
*                | | positive power supply
*                | | | negative power supply
*                | | | | open collector output
*                | | | | | output ground
*                | | | | | |
.subckt LM211    1 2 3 4 5 6
*
  x_lm211 1 2 3 4 5 6 LM111
*
* the LM211 is identical to the LM111, but has a more limited temp. range
*
.ends
*$
*-----------------------------------------------------------------------------
* connections:   non-inverting input
*                | inverting input
*                | | positive power supply
*                | | | negative power supply
*                | | | | open collector output
*                | | | | | output ground
*                | | | | | |
.subckt LM311    1 2 3 4 5 6
*
f1    9  3 v1 1
iee   3  7 dc 100.0E-6
vi1  21  1 dc .45
vi2  22  2 dc .45
q1    9 21  7 qin
q2    8 22  7 qin
q3    9  8  4 qmo
q4    8  8  4 qmi
.model qin PNP(Is=800.0E-18 Bf=500)
.model qmi NPN(Is=800.0E-18 Bf=1002)
.model qmo NPN(Is=800.0E-18 Bf=1000 Cjc=1E-15 Tr=124.2E-9)
e1   10  6  9  4  1
v1   10 11 dc 0
q5    5 11  6 qoc
.model qoc NPN(Is=800.0E-18 Bf=206.9E3 Cjc=1E-15 Tf=7.855E-12 Tr=83.83E-9)
dp    4  3 dx
rp    3  4 7.087E3
.model dx  D(Is=800.0E-18)
*
.ends
*$
*-----------------------------------------------------------------------------
* connections:   non-inverting input
*                | inverting input
*                | | positive power supply
*                | | | negative power supply
*                | | | | open collector output
*                | | | | | output ground
*                | | | | | |
.subckt LM319    1 2 3 4 5 6
*
  x_lm319 1 2 3 4 5 6 LM119
*
* the LM319 is identical to the LM119, but has a more limited temp. range
*
.ends
*$
